US04665068
A mixture of 2.84 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-9-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 30 ml of acetic anhydride and 30 drops of pyridine is stirred at 100° C. for 4 hours. After the reaction is completed, the reaction mixture is evaporated under reduced pressure to remove solvent. Toluene is added to the residue, and the mixture is evaporated under reduced pressure to remove solvent. The residue is converted to its hydrochloride and recrystallized from a mixture of ethanol and ether. 3.02 g of (+)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(dimethylamino)ethyl]-9-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride hydrate are obtained.

reactant | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-9-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 2.84 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC=C2Cl | C20H23ClN2O3S
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | pyridine | 30 drops | N1=CC=CC=C1 | C5H5N
product | (+)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(dimethylamino)ethyl]-9-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride hydrate | 3.02 g, Yield: 85.9% | O.Cl.COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(C)C)C=CC=C2Cl | InChI=1S/C22H25ClN2O4S.ClH.H2O/c1-14(26)29-19-20(15-8-10-16(28-4)11-9-15)30-21-17(23)6-5-7-18(21)25(22(19)27)13-12-24(2)3;;/h5-11,19-20H,12-13H2,1-4H3;1H;1H2/t19-,20+;;/m1../s1
